2108-10-17 07:51:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   [**2108-10-16**]:
   Echo showed LVEF 35% with infero-septal, inferior and infero-lateral
   akinesis. Mildly dilated RV with global hypokinesis, [**1-27**]+ MR [**First Name (Titles) **] [**Last Name (Titles) **].
   Moderate AS with valve area 1.0-1.2cm2. 1+ AR
   Compared with the prior study (images reviewed) of [**2108-10-16**], regional
   LV systolic dysfunction c/w CAD and at least moderate aortic stenosis
   are present (low output AS). Overall LVEF has decreased.
   Cath @2pm showed: CI 2.1, Fick CO 4.41. LMCA is short with 90% lesion.
   LAD has 90% lesion at ostium with segment mid disease to 70%. LCx is
   proximally occluded. RCA is a very large ectatic vessel with multiple
   lesions to 80%. No intervention performed. CT [**Doctor First Name 213**] consulted and would
   not do CABG at this time due to pulmonary status. Got Lasix 80 IV in
   cath lab and put out 300cc. Lasix gtt 5 mg/hr, titrate to UOP
   300cc/hr.  Received lasix 40 mg IV x 1 with good response.
   .
   Spiked to 102, cultures sent, changed anti-microbial regimen to
   vanc/cefepime/flagyl. Wary of septic physiology in setting of
   cardiogenic shock.
   .
   Lasix increased to 10 mg/hr, received additional bolus of lasix 80 mg
   IV x 1.  Weaning vent.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-16**] 05:40 PM
   Vancomycin - [**2108-10-16**] 06:00 PM
   Metronidazole - [**2108-10-17**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-17**] 04:00 AM
   Midazolam (Versed) - [**2108-10-17**] 06:30 AM
   Fentanyl - [**2108-10-17**] 06:47 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-27**] sedation
   per neice, possible DOE for 2-3 weeks prior to presentation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-17**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 117 (102 - 129) bpm
   BP: 106/73(84) {50/41(45) - 171/105(128)} mmHg
   RR: 22 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91 kg (admission): 91 kg
   Height: 67 Inch
    CVP: 14 (9 - 15)mmHg
   Total In:
                                                                  2,124 mL
                                                                    885 mL
   PO:
   TF:
   IVF:
                                                                  2,074 mL
                                                                    885 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  2,700 mL
   Urine:
                                                                  1,845 mL
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    279 mL
                                                                 -1,815 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/40/110/25/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), holosystolic III/VI murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly, Crackles : bibasilar, rales)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, no bruit
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, some mottling in toes
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal, opens eyes, turns head to name, does not follow commands
   Labs / Radiology
   160 K/uL
   12.8 g/dL
   161 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   37 mg/dL
   105 mEq/L
   142 mEq/L
   38.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2108-10-16**]  02:36 PM
                             [**2108-10-16**]  05:05 PM
                             [**2108-10-16**]  05:16 PM
                             [**2108-10-16**]  06:19 PM
                             [**2108-10-16**]  09:38 PM
                             [**2108-10-16**]  10:01 PM
                             [**2108-10-17**]  12:34 AM
                             [**2108-10-17**]  01:58 AM
                             [**2108-10-17**]  02:10 AM
                             [**2108-10-17**]  06:02 AM
   WBC
   15.4
   13.3
   Hct
   38.1
   38.4
   Plt
   148
   160
   Cr
   1.8
   1.8
   1.8
   1.8
   TropT
   9.69
   9.88
   9.06
   TCO2
   22
   24
   25
   24
   26
   Glucose
   138
   156
   143
   172
   174
   161
   Other labs: PT / PTT / INR:16.1/28.3/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:159/436, Alk Phos / T Bili:48/0.7,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:1201 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:5.2 mg/dL
   Imaging: 1. No PE.
   2. Extensive bilateral pulmonary air space consolidations and ground
   glass
   opacities. As the lung bases were clear on the study four hours prior,
   findings are concerning for aspiration and pulmonary edema.
   3. 6.5-cm infrarenal abdominal aortic aneurysm. No evidence for leak or
   rupture.
   4. Abnormal perfusion of the kidneys bilaterally likely relates to the
   phase of enhancement and repeated contrast administration.
   5. Diverticulosis. No evidence for diverticulitis
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH admitted to the CCU
   for hypotension and respiratory failure.
   .
   # Hypotension: Patient was hypotensive to SBP 80s at OSH, at transfer,
   and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to 70s/50s
   post-emergent intubation, and has required intermitent levophed since
   transfer.  Unclear etiology, although concerning for unstable AAA,
   possible recent dynamic changes.  Potential etiologies include
   cardiogenic shock or distributive shock from sepsis/SIRS physiology or
   medications.  Bedside echo by cardiology fellow in ED did not show
   decreased LVEF but with moderate to severe MR with unknown baseline,
   which if new could be the etiology to patient's symptoms.  Repeat TTE
   showed worse LVEF on lower dose levophed.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI.
   - Continue aggressive diuresis with lasix 20 mg / hr.  Goal net (-) [**2-29**]
   liters today as BP, MAP, levophed allows
   - Maintain MAP>60, CVP>12 (intubated)
   - Treat for aspiration pneumonia versus chemical pneumonitis with vanco
   and cefepime (both renally dosed) and flagyl. Likely 7 day course
   -  f/u pending sputum cultures
   - f/u blood cultures and sputum cultures
   - Discussed with blood bank fellow, will fill out transfusion reaction
   form and send pink top -> will repeat type and cross
   - attempt to wean levophed today
   .
   # Mixed respiratory failure: Patient with possible hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis.
   - Consider restarting vecuronium with adequate sedation in order to
   optimize respiratory mechanics
   - Continue volume-cycled assist control with goal to increase minute
   ventilation to blow off CO2 and wean FiO2 and PEEP.  If patient remains
   difficult to oxygenate may require continued paralytics and APRV.
   - Recheck ABG with vent changes, currently FiO2 50%,PEEP 18 -> will
   wean PEEP incrementally as able
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Left heart cath results as above.  Possible
   revascularization in future if patient improves clinically.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, BB given hypotension and concern
   for ruptured AAA.
   - Cycle cardiac biomarkers -> peak CK 2350, now trending down
   - pt becomes hypertensive with agitation, and in setting of known AS,
   LV appears to be able to handle increased wall tension, an encouraging
   sign
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - TTE noted above.
   - aggressive diuresis as above
   - Check ScVO2, CVP.
   - right heart cath -> increased filling pressures and PCWP 25
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.
   - Telemetry, sinus tach;
   .
   # AAA: Currently does not appear to be ruptured.
   - Follow-up with vascular surgery regarding timing of intervention
   - Trend hct, maintain active T+S, crossmatch
   - maintain good BP control
   .
   # Hyperkalemia: Uncertain etiology at this time, although patient with
   normal serum potassium level at OSH. This may be in setting of 5 units
   PRBC transfusion. Patient did not receive succinylcholine for RSI.
   Alternatively, this could be rhabdomyolysis given elevated
   transaminases and ARF in setting of statin therapy, although this
   appears less likely. ECG with concerning changes including peaked T
   waves V1-3 and borderline prolonged PR interval.  Now resolved, pt
   requiring K+ in setting of significant UOP
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.
   - Trend LFTs -> cont to be elevated, stable
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes -> creatinine stable 1.4 on admission,
   now 1.8, also encouraging
   - Repeat UA, urine electrolytes, and urine eos.
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   # Acidosis: Patient with mixed non-gap acidosis and respiratory
   acidosis. Now resolved
   - Trend pH, electrolyes, ABG
   - Increase minute ventilation as above.
   .
   # Leukocytosis: Concerning for infectious process, although worsening
   leukocytosis could also be caused by chemical pneumonitis or ACS.
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   .
   FEN: NPO, IVF
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   20 Gauge - [**2108-10-16**] 08:00 AM
   18 Gauge - [**2108-10-16**] 08:00 AM
   16 Gauge - [**2108-10-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date/time of service was 9/23/9 at 10:30. Critically ill due to acute
   systolic CHF, aortic stenosis, respiratory failure, mitral
   regurgitation, hypoxia, on a ventilator, acute blood loss anemia.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-18**] 16:14 ------

2108-10-18 07:27:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   bursts of a.fib/sinus tach 140s yesterday PM, spontaneously converted
   at times
   DC cardioversion attempted with 250 joules -> unsuccessful
   lasix gtt d/c'd
   levophed off this AM
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-16**] 05:40 PM
   Vancomycin - [**2108-10-17**] 07:40 PM
   Metronidazole - [**2108-10-18**] 04:33 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-27**] sedation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-18**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (101
   HR: 98 (95 - 149) bpm
   BP: 118/69(87) {75/52(60) - 143/89(110)} mmHg
   RR: 6 (6 - 26) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 91 kg (admission): 91 kg
   Height: 67 Inch
    CVP: 4 (4 - 352)mmHg
   Total In:
                                                                  2,401 mL
                                                                    478 mL
   PO:
   TF:
   IVF:
                                                                  2,341 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  5,405 mL
                                                                    485 mL
   Urine:
                                                                  5,405 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,004 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/42/199/28/7
   Ve: 9.3 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), at USB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   107 K/uL
   9.9 g/dL
   112 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   109 mEq/L
   147 mEq/L
   29.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2108-10-17**]  06:02 AM
                             [**2108-10-17**]  08:43 AM
                             [**2108-10-17**]  11:44 AM
                             [**2108-10-17**]  01:18 PM
                             [**2108-10-17**]  01:40 PM
                             [**2108-10-17**]  06:30 PM
                             [**2108-10-17**]  09:51 PM
                             [**2108-10-18**]  01:21 AM
                             [**2108-10-18**]  03:45 AM
                             [**2108-10-18**]  04:06 AM
   WBC
   13.3
   10.6
   Hct
   38.4
   29.4
   Plt
   160
   107
   Cr
   1.8
   1.9
   1.7
   1.7
   TropT
   9.06
   TCO2
   27
   27
   30
   31
   31
   31
   Glucose
   161
   139
   129
   112
   Other labs: PT / PTT / INR:16.1/28.3/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:102/192, Alk Phos / T Bili:40/0.8,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:908 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Imaging: Diffuse airspace disease has
   considerably improved. However, small bilateral pleural effusions are
   more
   conspicuous on this study. There is no pneumothorax
   ECG: tele - frequent runs of a.fib/flutter
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH admitted to the CCU
   for hypotension and respiratory failure.
   .
   # Hypotension: Patient was hypotensive to SBP 80s at OSH, at transfer,
   and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to 70s/50s
   post-emergent intubation, and has required intermitent levophed since
   transfer.  Unclear etiology, although concerning for unstable AAA,
   possible recent dynamic changes.  Potential etiologies include
   cardiogenic shock or distributive shock from sepsis/SIRS physiology or
   medications.  Bedside echo by cardiology fellow in ED did not show
   decreased LVEF but with moderate to severe MR with unknown baseline,
   which if new could be the etiology to patient's symptoms.  Repeat TTE
   showed worse LVEF on lower dose levophed.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI.
   - Continue aggressive diuresis with lasix 20 mg / hr.  Goal net (-) [**2-29**]
   liters today as BP, MAP, levophed allows -> done
   - goal Is/Os even today, ensure UOP > 50 cc/hr
   - Maintain MAP>60, CVP>12 (intubated)
   - Treat for aspiration pneumonia versus chemical pneumonitis with vanco
   and cefepime (both renally dosed) and flagyl. Likely 7 day course,
   today day [**3-31**]
   -  f/u pending sputum cultures
   - f/u blood cultures and sputum cultures
   - Discussed with blood bank fellow, will fill out transfusion reaction
   form and send pink top -> will repeat type and cross
   - attempt to wean levophed today -> done
   .
   # Mixed respiratory failure: Patient with possible hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis.
   - Consider restarting vecuronium with adequate sedation in order to
   optimize respiratory mechanics
   - Continue volume-cycled assist control with goal to increase minute
   ventilation to blow off CO2 and wean FiO2 and PEEP.  If patient remains
   difficult to oxygenate may require continued paralytics and APRV.
   - Recheck ABG with vent changes, currently FiO2 50%, PEEP 10 -> will
   wean PEEP incrementally as able
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Left heart cath results as above.  Possible
   revascularization in future if patient improves clinically.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, BB given hypotension and concern
   for ruptured AAA.
   - Cycle cardiac biomarkers -> peak CK 2350, now trending down, will
   stop cycle
   - pt becomes hypertensive with agitation, and in setting of known AS,
   LV appears to be able to handle increased wall tension, an encouraging
   sign
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - TTE noted above.
   - aggressive diuresis as above
   - Check ScVO2, CVP.
   - right heart cath -> increased filling pressures and PCWP 25
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.  Now has evidence of
   a.flutter.
   - Telemetry
   - failed DC cardioversion yesterday, will attempt again today on 12
   lead
   - start amio in interim, 150 mg bolus, 1 mg/min for 6 hours, 0.6 mg/min
   for 18 hours
   .
   # AAA: Currently does not appear to be ruptured.  Concern today with 9
   point drop in Hct.  Will repeat Hct, consider repeat CT abdomen
   - Follow-up with vascular surgery regarding timing of intervention
   - Trend hct, maintain active T+S, crossmatch
   - maintain good BP control
   - CT CAP non-contrast, transfuse 2 units PRBCs today
   .
   # Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam
   -  will monitor, hold heparin for now
   .
   # Hyperkalemia: Uncertain etiology at this time, although patient with
   normal serum potassium level at OSH. This may be in setting of 5 units
   PRBC transfusion. Patient did not receive succinylcholine for RSI.
   Alternatively, this could be rhabdomyolysis given elevated
   transaminases and ARF in setting of statin therapy, although this
   appears less likely. ECG with concerning changes including peaked T
   waves V1-3 and borderline prolonged PR interval.  Now resolved, pt
   requiring K+ in setting of significant UOP
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Resolving.  Toxicology screen negative.
   - Trend LFTs -> cont to be elevated, stable
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes -> creatinine stable 1.4 on admission,
   now 1.8, also encouraging
   - Repeat UA, urine electrolytes, and urine eos.
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   # Acidosis: Patient with mixed non-gap acidosis and respiratory
   acidosis. Now resolved, pt has primary metabolic alkalosis
   - Trend pH, electrolyes, ABG
   - decrease minute ventilation as able
   .
   # Leukocytosis: Concerning for infectious process, although worsening
   leukocytosis could also be caused by chemical pneumonitis or ACS.
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   .
   FEN: NPO, IVF
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   20 Gauge - [**2108-10-16**] 08:00 AM
   18 Gauge - [**2108-10-16**] 08:00 AM
   16 Gauge - [**2108-10-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to acute on chronic systolic and diastolic CHF,
   cardiogenic shock, moderate to severe aortic stenosis, abdominal aortic
   aneurysm, renal failure
   Date/time of visit was 9/24/9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-25**] 13:39 ------

2108-10-18 16:19:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   [**2108-10-16**]:
   Echo showed LVEF 35% with infero-septal, inferior and infero-lateral
   akinesis. Mildly dilated RV with global hypokinesis, [**1-27**]+ MR [**First Name (Titles) **] [**Last Name (Titles) **].
   Moderate AS with valve area 1.0-1.2cm2. 1+ AR
   Compared with the prior study (images reviewed) of [**2108-10-16**], regional
   LV systolic dysfunction c/w CAD and at least moderate aortic stenosis
   are present (low output AS). Overall LVEF has decreased.
   Cath @2pm showed: CI 2.1, Fick CO 4.41. LMCA is short with 90% lesion.
   LAD has 90% lesion at ostium with segment mid disease to 70%. LCx is
   proximally occluded. RCA is a very large ectatic vessel with multiple
   lesions to 80%. No intervention performed. CT [**Doctor First Name 213**] consulted and would
   not do CABG at this time due to pulmonary status. Got Lasix 80 IV in
   cath lab and put out 300cc. Lasix gtt 5 mg/hr, titrate to UOP
   300cc/hr.  Received lasix 40 mg IV x 1 with good response.
   .
   Spiked to 102, cultures sent, changed anti-microbial regimen to
   vanc/cefepime/flagyl. Wary of septic physiology in setting of
   cardiogenic shock.
   .
   Lasix increased to 10 mg/hr, received additional bolus of lasix 80 mg
   IV x 1.  Weaning vent.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-16**] 05:40 PM
   Vancomycin - [**2108-10-16**] 06:00 PM
   Metronidazole - [**2108-10-17**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-17**] 04:00 AM
   Midazolam (Versed) - [**2108-10-17**] 06:30 AM
   Fentanyl - [**2108-10-17**] 06:47 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-27**] sedation
   per neice, possible DOE for 2-3 weeks prior to presentation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-17**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 117 (102 - 129) bpm
   BP: 106/73(84) {50/41(45) - 171/105(128)} mmHg
   RR: 22 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91 kg (admission): 91 kg
   Height: 67 Inch
    CVP: 14 (9 - 15)mmHg
   Total In:
                                                                  2,124 mL
                                                                    885 mL
   PO:
   TF:
   IVF:
                                                                  2,074 mL
                                                                    885 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  2,700 mL
   Urine:
                                                                  1,845 mL
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    279 mL
                                                                 -1,815 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 30 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/40/110/25/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), holosystolic III/VI murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly, Crackles : bibasilar, rales)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, no bruit
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, some mottling in toes
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal, opens eyes, turns head to name, does not follow commands
   Labs / Radiology
   160 K/uL
   12.8 g/dL
   161 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   37 mg/dL
   105 mEq/L
   142 mEq/L
   38.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2108-10-16**]  02:36 PM
                             [**2108-10-16**]  05:05 PM
                             [**2108-10-16**]  05:16 PM
                             [**2108-10-16**]  06:19 PM
                             [**2108-10-16**]  09:38 PM
                             [**2108-10-16**]  10:01 PM
                             [**2108-10-17**]  12:34 AM
                             [**2108-10-17**]  01:58 AM
                             [**2108-10-17**]  02:10 AM
                             [**2108-10-17**]  06:02 AM
   WBC
   15.4
   13.3
   Hct
   38.1
   38.4
   Plt
   148
   160
   Cr
   1.8
   1.8
   1.8
   1.8
   TropT
   9.69
   9.88
   9.06
   TCO2
   22
   24
   25
   24
   26
   Glucose
   138
   156
   143
   172
   174
   161
   Other labs: PT / PTT / INR:16.1/28.3/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:159/436, Alk Phos / T Bili:48/0.7,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, Lactic Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:1201 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:5.2 mg/dL
   Imaging: 1. No PE.
   2. Extensive bilateral pulmonary air space consolidations and ground
   glass
   opacities. As the lung bases were clear on the study four hours prior,
   findings are concerning for aspiration and pulmonary edema.
   3. 6.5-cm infrarenal abdominal aortic aneurysm. No evidence for leak or
   rupture.
   4. Abnormal perfusion of the kidneys bilaterally likely relates to the
   phase of enhancement and repeated contrast administration.
   5. Diverticulosis. No evidence for diverticulitis
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH admitted to the CCU
   for hypotension and respiratory failure.
   .
   # Hypotension: Patient was hypotensive to SBP 80s at OSH, at transfer,
   and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to 70s/50s
   post-emergent intubation, and has required intermitent levophed since
   transfer.  Unclear etiology, although concerning given signs of end
   organ perfusion including elevated creatinine, LFTs, and cardiac
   biomarkers.  Potential etiologies include cardiogenic shock or
   distributive shock from sepsis/SIRS physiology, anaphylaxis in setting
   of receiving blood products, or medications.  Bedside echo by
   cardiology fellow in ED did not show decreased LVEF but with moderate
   to severe MR with unknown baseline, which if new could be the etiology
   to patient's symptoms.  In addition, volume rescucitation in setting of
   suspected ruptured AAA with 5 units PRBCs and 3L IVF could also have
   caused volume overload leading to decreased cardiac output and
   pulmonary edema from decompensated heart failure.  SIRS/sepsis could be
   in the setting of aspiration event during emergent intubation or
   TRALI.
   - Treat as sepsis with EGDT for now. Maintain MAP>65, CVP>12
   (intubated), ScVO2>70, monitor UOP with goal>30 cc/hr. Recheck lactate.
   - Treat for aspiration pneumonia versus chemical pneumonitis with
   vanco, cefipime, flagyl pending sputum cultures. Can likely discontinue
   in 24-48 hours when infectious process ruled out.
   - Obtain blood cultures and sputum cultures
   - Discussed with blood bank fellow, will fill out transfusion reaction
   form and send pink top.
   - Formal TTE in AM to assess for valvular disease, LVEF, and wall
   motion abnormalities.
   .
   # Mixed respiratory failure: Patient with apparent hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.
   - Restart vecuronium with adequate sedation in order to optimize
   respiratory mechanics
   - Continue volume-cycled assist control with goal to increase minute
   ventilation to blow off CO2 and wean FiO2 and PEEP.  If patient remains
   difficult to oxygenate may require continued paralytics and APRV.
   - Recheck ABG.
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial presentation.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, BB given hypotension and concern
   for ruptured AAA.
   - Cycle cardiac biomarkers.
   - TTE as above
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - Surface echocardiogram today.
   - Hold off on lasix pending determination of etiology to hypotension
   (cardiogenic versus distributive versus mixed).
   - Check ScVO2, CVP.
   - Consider right heart cath to determine filling pressures and PCWP.
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.
   - Telemetry
   .
   # AAA: Currently does not appear to be ruptured.
   - Follow-up with vascular surgery regarding timing of intervention
   - Trend hct, maintain active T+S, crossmatch.
   .
   # Hyperkalemia: Uncertain etiology at this time, although patient with
   normal serum potassium level at OSH. This may be in setting of 5 units
   PRBC transfusion. Patient did not receive succinylcholine for RSI.
   Alternatively, this could be rhabdomyolysis given elevated
   transaminases and ARF in setting of statin therapy, although this
   appears less likely. ECG with concerning changes including peaked T
   waves V1-3 and borderline prolonged PR interval.
   - Calcium gluconate, insulin, D50, bicarb, and kayexalate.
   - Repeat ECG.
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.
   - Trend LFTs
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes
   - Repeat UA, urine electrolytes, and urine eos.
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   # Acidosis: Patient with mixed non-gap acidosis and respiratory
   acidosis.
   - Trend pH, electrolyes, ABG
   - Increase minute ventilation as above.
   .
   # Leukocytosis: Concerning for infectious process, although worsening
   leukocytosis could also be caused by chemical pneumonitis or ACS.
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   .
   FEN: NPO, IVF
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   20 Gauge - [**2108-10-16**] 08:00 AM
   18 Gauge - [**2108-10-16**] 08:00 AM
   16 Gauge - [**2108-10-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   DATE/TIME of service 9/23/9 at 11am. Critically ill due to acute
   systolic CHF, aortic stenosis, mitral regurgitation, hypoxia,
   respiratory failure, acute blood loss anemia.

2108-10-19 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.1
F - [**2108-10-18**] 08:00 AM
   [**10-18**]:
   - Hct stable at 29-30, platelets continue to trend down to 89. Smear
   reviewed, no schistocytes.
   - FiO2 down to 0.4
   - Received 2 units PRBC
   - CT torso negative for bleed (chest, abd, RP, thighs). Lungs improved.
   - Pt diuresing well to 40 IV Lasix X2
   - Heme consult [**Doctor Last Name **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-18**] 05:43 PM
   Vancomycin - [**2108-10-18**] 06:52 PM
   Metronidazole - [**2108-10-18**] 08:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-18**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-19**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.9
C (100.3
   HR: 85 (72 - 148) bpm
   BP: 133/73(96) {94/61(72) - 135/78(98)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 86.4 kg (admission): 91 kg
   Height: 67 Inch
    CVP: 293 (10 - 318)mmHg
   Total In:
                                                                  2,422 mL
                                                                    239 mL
   PO:
   TF:
   IVF:
                                                                  1,724 mL
                                                                    239 mL
   Blood products:
                                                                    698 mL
   Total out:
                                                                  2,905 mL
                                                                  1,475 mL
   Urine:
                                                                  2,905 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -483 mL
                                                                 -1,236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.46/44/140/28/7
   Ve: 8.5 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   12.0 g/dL
   105 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   43 mg/dL
   107 mEq/L
   146 mEq/L
   36.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2108-10-18**]  03:45 AM
                             [**2108-10-18**]  04:06 AM
                             [**2108-10-18**]  07:39 AM
                             [**2108-10-18**]  07:54 AM
                             [**2108-10-18**]  12:20 PM
                             [**2108-10-18**]  03:12 PM
                             [**2108-10-18**]  07:26 PM
                             [**2108-10-19**]  04:16 AM
                             [**2108-10-19**]  04:34 AM
                             [**2108-10-19**]  05:59 AM
   WBC
   10.6
   9.6
   10.9
   10.5
   Hct
   29.4
   31.3
   29.8
   33.3
   36.0
   Plt
   107
   89
   99
   113
   Cr
   1.7
   1.5
   1.3
   1.4
   TCO2
   31
   30
   27
   31
   32
   Glucose
   112
   100
   137
   105
   Other labs: PT / PTT / INR:15.5/29.4/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:78/123, Alk Phos / T Bili:40/1.5,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:906 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 AORTIC ANEURYSM, ABDOMINAL WITHOUT RUPTURE (AAA)
 SHOCK, SEPTIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   18 Gauge - [**2108-10-16**] 08:00 AM
   16 Gauge - [**2108-10-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-10-19 07:33:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   - Hct stable at 29-30, platelets continue to trend down to 89. Smear
   reviewed, no schistocytes.
   - FiO2 down to 0.4
   - Received 2 units PRBC
   - CT torso negative for bleed (chest, abd, RP, thighs). Lungs improved.
   - Vent settings changed from Peep of 10 to 5, rate changed from 18 to
   15
   - On AM of [**10-19**] Hct up to 36, Platelets to 137
   - started on amio, bolus, now gtt
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-18**] 05:43 PM
   Vancomycin - [**2108-10-18**] 06:52 PM
   Metronidazole - [**2108-10-18**] 08:00 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-18**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**2-27**] sedation
   per pt's friend, pt had intermittent DOE for 2-3 weeks prior to
   admission, and was feeling quite sick on the day he presented to [**Hospital1 **]; pt did not c/o fevers/chills/cough
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-19**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.9
C (100.3
   HR: 85 (72 - 148) bpm
   BP: 133/73(96) {94/61(72) - 135/78(98)} mmHg
   RR: 15 (15 - 19) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 86.4 kg (admission): 91 kg
   Height: 67 Inch
    CVP: 293 (10 - 293)mmHg
   Total In:
                                                                  2,422 mL
                                                                    254 mL
   PO:
   TF:
   IVF:
                                                                  1,724 mL
                                                                    254 mL
   Blood products:
                                                                    698 mL
   Total out:
                                                                  2,905 mL
                                                                  1,475 mL
   Urine:
                                                                  2,905 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -483 mL
                                                                 -1,221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.46/44/140/28/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), harsh, III/VI
   systolic murmur at LUSB, no radiation
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Wheezes : rare inspiratory wheeze anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, abdominal bruit
   noted
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, feet improved, no longer mottled
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   113 K/uL
   12.0 g/dL
   105 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   43 mg/dL
   107 mEq/L
   146 mEq/L
   36.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2108-10-18**]  03:45 AM
                             [**2108-10-18**]  04:06 AM
                             [**2108-10-18**]  07:39 AM
                             [**2108-10-18**]  07:54 AM
                             [**2108-10-18**]  12:20 PM
                             [**2108-10-18**]  03:12 PM
                             [**2108-10-18**]  07:26 PM
                             [**2108-10-19**]  04:16 AM
                             [**2108-10-19**]  04:34 AM
                             [**2108-10-19**]  05:59 AM
   WBC
   10.6
   9.6
   10.9
   10.5
   Hct
   29.4
   31.3
   29.8
   33.3
   36.0
   Plt
   107
   89
   99
   113
   Cr
   1.7
   1.5
   1.3
   1.4
   TCO2
   31
   30
   27
   31
   32
   Glucose
   112
   100
   137
   105
   Other labs: PT / PTT / INR:15.5/29.4/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:78/123, Alk Phos / T Bili:40/1.5,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:906 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: CT C/A/P
   1. Stable appearance of 6.4 cm infrarenal abdominal aortic aneurysm,
   without
   evidence of leak or rupture.
   2. No intra-abdominal, retroperitoneal or right groin hematoma to
   explain
   drop in hematocrit.
   3. Stranding of subcutaneous tissues of the right groin, consistent
   with
   recent cardiac catheterization.
   4. Improved aeration of the dependent lungs bilaterally compared to two
   days
   prior, with moderate persistent atelectasis or consolidation
   bilaterally, and
   small bilateral pleural effusions.
   5. Calcified pleura consistent with prior asbestos exposure.
   6. Diverticulosis without diverticulitis.
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH admitted to the CCU
   for hypotension and respiratory failure.
   .
   # Hypotension: Patient was hypotensive to SBP 80s at OSH, at transfer,
   and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to 70s/50s
   post-emergent intubation, and has required intermitent levophed since
   transfer.  Unclear etiology, although concerning for unstable AAA,
   possible recent dynamic changes.  Potential etiologies include
   cardiogenic shock or distributive shock from sepsis/SIRS physiology or
   medications.  Bedside echo by cardiology fellow in ED did not show
   decreased LVEF but with moderate to severe MR with unknown baseline,
   which if new could be the etiology to patient's symptoms.  Repeat TTE
   showed worse LVEF on lower dose levophed.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI.
   - Continue aggressive diuresis with lasix 20 mg / hr.  Goal net (-) [**2-29**]
   liters today as BP, MAP, levophed allows -> done
   - pt was net (-) 500 cc on [**2108-10-18**], now (-) 1.5 liters this morning.
   Goal today (-) one liter, UOP > 50 cc/hr
   - Maintain MAP>60, CVP>12 (intubated)
   - Treat for aspiration pneumonia versus chemical pneumonitis with vanco
   and cefepime (both renally dosed) and flagyl. Likely 7 day course,
   today day [**5-1**]
   -  f/u pending sputum cultures -> commensal organisms only
   - f/u blood cultures cultures -> still pending
   - Discussed with blood bank fellow, will fill out transfusion reaction
   form and send pink top -> will repeat type and cross
   - attempt to wean levophed -> done
   .
   # Mixed respiratory failure: Patient initially had possible hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis.
   - Considered restarting vecuronium with adequate sedation in order to
   optimize respiratory mechanics
   - Continue volume-cycled assist control with goal to increase minute
   ventilation to blow off CO2 and wean FiO2 and PEEP.  If patient remains
   difficult to oxygenate may require continued paralytics and APRV.
   - Recheck ABG with vent changes, currently FiO2 40%, PEEP 5
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Left heart cath results as above.  Possible
   revascularization in future if patient improves clinically.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, BB given hypotension and concern
   for ruptured AAA.
   - Cycle cardiac biomarkers -> peak CK 2350, now trending down, will
   stop cycle
   - pt becomes hypertensive with agitation, and in setting of known AS,
   LV appears to be able to handle increased wall tension, an encouraging
   sign
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - TTE noted above.
   - aggressive diuresis as above
   - Check ScVO2, CVP.
   - right heart cath -> increased filling pressures and PCWP 25
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.  Now has evidence of
   a.flutter.
   - Telemetry
   - failed DC cardioversion
   - start amio in interim, 150 mg bolus, 1 mg/min for 6 hours, 0.6 mg/min
   for 18 hours -> pt cont in a.flutter/a.fib, in NSR at times
   - will cont amio PO after gtt finished
   .
   # AAA: Currently does not appear to be ruptured.  Concern today with 9
   point drop in Hct.  Will repeat Hct, CT abdomen showed no changes in
   AAA, no RP bleed, no obvious source of blood loss
   - Follow-up with vascular surgery regarding timing of intervention
   - Trend hct, maintain active T+S, crossmatch
   - maintain good BP control
   - CT CAP non-contrast, transfuse 2 units PRBCs yesterday -> good
   response, Hct now 36
   .
   # Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam
   -  will monitor, hold heparin for now
   -  plts stable at 113
   .
   # Hyperkalemia: Uncertain etiology at this time, although patient with
   normal serum potassium level at OSH. This may be in setting of 5 units
   PRBC transfusion. Patient did not receive succinylcholine for RSI.
   Alternatively, this could be rhabdomyolysis given elevated
   transaminases and ARF in setting of statin therapy, although this
   appears less likely. ECG with concerning changes including peaked T
   waves V1-3 and borderline prolonged PR interval.  Now resolved, pt
   requiring K+ in setting of significant UOP
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Resolving.  Toxicology screen negative.
   - Trend LFTs -> cont to be elevated, stable
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes -> creatinine stable 1.4 on admission,
   now 1.5, also encouraging
   - Repeat UA, urine electrolytes, and urine eos, and repeat urine
   culture
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   # Acidosis: Patient with mixed non-gap acidosis and respiratory
   acidosis. Now resolved, pt has primary metabolic alkalosis
   - Trend pH, electrolyes, ABG
   - decrease minute ventilation as able
   .
   # Leukocytosis: Concerning for infectious process, although worsening
   leukocytosis could also be caused by chemical pneumonitis or ACS.
   Leukocytosis has resolved, low grade temp cont, will check B/C, urine
   cx today
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   .
   FEN: will start oral feedings through OG tube after resolving AAA
   endovascular repair schedule
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   18 Gauge - [**2108-10-16**] 08:00 AM
   16 Gauge - [**2108-10-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to acute sub-endocardial MI, acute systolic and
   diastolic heart failure, renal failure, blood loss anemia.
   Date time of visit was 9/25/9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-21**] 09:03 ------

2108-10-20 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2108-10-19**] 09:00 AM
   Yesterday started on labetalol drip, titrated to map in 70s.
   Has been intermittently febrile: Tm 103 at 9 am
 102.6 at noon
   101.5 at 4am
   Cultured.  On Vanc/Cefepime/Flagyl ([**10-16**]-present)
Sputum from [**10-19**] shows [**11-18**] PMNs and <10 epithelial cells/100X field.  NO MICRO
ORGANISMS SEEN.
All BCx [**Month/Year (2) 10314**]
   Hem/onc consulted yesterday --> think there are no signs hemolysis and
   this hct drop due to combo of blood loss/ dilution/ fluid shifts.
   Tele: NSR overnight, no NSVT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-19**] 03:23 PM
   Vancomycin - [**2108-10-19**] 05:30 PM
   Metronidazole - [**2108-10-20**] 04:38 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Labetalol - 0.3 mg/min
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-19**] 01:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.6
C (101.5
   HR: 70 (67 - 96) bpm
   BP: 96/52(67) {88/45(60) - 135/79(110)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.4 kg (admission): 91 kg
   Height: 67 Inch
             Total In:
                                                                  1,478 mL
                                                                    569 mL
   PO:
             TF:
                                                                    214 mL
                                                                    268 mL
   IVF:
                                                                  1,214 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    458 mL
   Urine:
                                                                  3,455 mL
                                                                    458 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,977 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: 7.46/42/127/29/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), harsh,
   III/VI systolic murmur at LUSB, no radiation
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, feet improved and no longer mottled
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   122 K/uL
   11.7 g/dL
   136 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   46 mg/dL
   111 mEq/L
   147 mEq/L
   35.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2108-10-18**]  12:20 PM
                             [**2108-10-18**]  03:12 PM
                             [**2108-10-18**]  07:26 PM
                             [**2108-10-19**]  04:16 AM
                             [**2108-10-19**]  04:34 AM
                             [**2108-10-19**]  05:59 AM
                             [**2108-10-19**]  05:05 PM
                             [**2108-10-19**]  05:19 PM
                             [**2108-10-20**]  05:03 AM
                             [**2108-10-20**]  06:30 AM
   WBC
   9.6
   10.9
   10.5
   8.7
   Hct
   29.8
   33.3
   36.0
   36.3
   35.0
   Plt
   89
   99
   113
   122
   Cr
   1.3
   1.4
   1.3
   TCO2
   27
   31
   32
   33
   30
   31
   Glucose
   137
   105
   136
   Other labs: PT / PTT / INR:14.9/25.2/1.3, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:57/70, Alk Phos / T Bili:41/0.6,
   Amylase / Lipase:/24, Differential-Neuts:84.1 %, Lymph:11.4 %, Mono:3.8
   %, Eos:0.2 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:723 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
   # Blood pressure control: Patient was hypotensive to SBP 80s at OSH, at
   transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to
   70s/50s post-emergent intubation, and required intermitent levophed for
   first several days at [**Hospital1 19**].  Unclear etiology, although concerning for
   unstable AAA, possible recent dynamic changes.  Potential etiologies
   include cardiogenic shock or distributive shock from sepsis/SIRS
   physiology or medications.  In addition, volume rescucitation in
   setting of suspected ruptured AAA with 5 units PRBCs and 3L IVF likely
   has caused volume overload leading to decreased cardiac output and
   pulmonary edema from decompensated heart failure.  SIRS/sepsis could be
   in the setting of aspiration event during emergent intubation or
   TRALI.  Hypotension now resolved, but need tight bp control given risk
   for AAA rupture.  - Initially aggressive diuresis with lasix 20 mg /
   hr.  Total LOS neg 5L
   - Goal today (-) one liter, UOP > 50 cc/hr
   - Patient has tendency to become agitated and hypertensive when
   repositioning - will use labetolol or nitro drip for goal MAP 70s
   .
   # Mixed respiratory failure: Patient initially had possible hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis.
   - Recheck ABG with vent changes, currently FiO2 40%, PEEP 5
   - will attempt to wean down sedation today; may require nitro drip to
   control BP
   - Treat for aspiration pneumonia versus chemical pneumonitis with vanco
   and cefepime (both renally dosed) and flagyl. Likely 7 day course,
   today day [**5-31**]
   - f/u pending sputum cultures -> commensal organisms only
   - f/u blood cultures -> [**Last Name (LF) 10314**], [**First Name3 (LF) **] culture daily if continues to spike
   - Discussed with blood bank fellow, will fill out transfusion reaction
   form and send pink top -> will repeat type and cross
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Left heart cath results as above.  Possible
   revascularization in future if patient improves clinically.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - cardiac biomarkers -> peak CK 2350, now trending down, will stop
   cycle
   - pt becomes hypertensive with agitation, and in setting of known AS,
   LV appears to be able to handle increased wall tension, an encouraging
   sign
   - Now on labetalol drip, titrate to MAP in 70s.  Will consider using
   nitro drip if needed.
   .
   # AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.   CT abdomen showed no changes in AAA, no RP
   bleed, no obvious source of blood loss.  Given 2 units blood with
   appropriate rise and Hct now stable.
   - Follow-up with vascular surgery regarding timing of intervention
   plan for monday
   - Trend hct, maintain active T+S, crossmatch
   - maintain good BP control
   .
   # Fever/Leukocytosis: Concerning for infectious process, although
   worsening leukocytosis could also be caused by chemical pneumonitis or
   ACS.  Leukocytosis has resolved, low grade temp cont, will check B/C,
   urine cx today
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - TTE showed EF 35%, infero akinesis, moderate aortic valve stenosis
   (valve area 1.0-1.2cm2).
   - continue diuresis as above
   - Check ScVO2, CVP.
   - right heart cath showed increased filling pressures and PCWP 25
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter.
   - Cont Telemetry
   - failed DC cardioversion
   - start amio in interim, 150 mg bolus, 1 mg/min for 6 hours, 0.6 mg/min
   for 18 hours -> pt cont in a.flutter/a.fib, in NSR at times
   - will cont amio PO
 patient as been in sinus for 24 hours
   .
   # Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam
   -  will monitor, hold heparin for now
   -  plts stable at 113
 122
   - heme/onc consulted, recs appreciated
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Resolving.  Toxicology screen negative.
   - Trend LFTs -> cont to be elevated, stable
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes -> creatinine stable 1.4 on admission,
   now 1.5, also encouraging
   - Repeat UA, urine electrolytes, and urine eos, and repeat urine
   culture
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   FEN: oral feedings through OG tube
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2108-10-20**] 05:08 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to acute sub-endocardial MI, acute systolic and
   diastolic heart failure, renal failure, blood loss anemia.
   Date/time of visit was 9/26/9 at 1400
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-21**] 09:05 ------

2108-10-21 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pt remains intubated, sedated this AM.
   24 Hour Events:
 BLOOD CULTURED - At [**2108-10-21**] 06:50 AM
   from art  line
 FEVER - 102.4
F - [**2108-10-21**] 06:00 AM
   [**2108-10-20**]:
   able to wean vent to CPAP --> patient tachypneic, biting on tube -->
   back to CMV/assist
   sedation weaned down.
   I/O:
   patient continued to spike to 101 throughout day.  no clear source.
   cultured again.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-19**] 05:30 PM
   Cefipime - [**2108-10-20**] 04:00 PM
   Metronidazole - [**2108-10-21**] 04:00 AM
   Infusions:
   Labetalol - 0.7 mg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-20**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 82 (69 - 82) bpm
   BP: 116/59(78) {83/48(60) - 134/68(93)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.9 kg (admission): 91 kg
   Height: 67 Inch
             Total In:
                                                                  2,314 mL
                                                                    891 mL
   PO:
             TF:
                                                                  1,191 mL
                                                                    383 mL
   IVF:
                                                                    688 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  2,621 mL
                                                                  1,555 mL
   Urine:
                                                                  2,616 mL
                                                                  1,555 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                   -664 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 428 (428 - 476) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.50/38/90.[**Numeric Identifier 126**]/29/5
   Ve: 9.1 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: Sedated, Intubated
   HEENT: Intubated, R IJ central line in place, w/ slight erythema, no
   obvious pus or discharge. Normocephalic, no lymphadenopathy
   Resp: Lungs clear anteriorly
   Cards: S1: Normal), (S2: Normal), (Murmur: Systolic), harsh, III/VI
   systolic murmur at LUSB, no radiation
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, feet improved and no longer mottled. R hand with single
   vesicle on dorsal surface, and few emerging vessicles
   Neurologic: Grimaces to painful stimuli
   Labs / Radiology
   138 K/uL
   12.5 g/dL
   139 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   44 mg/dL
   110 mEq/L
   149 mEq/L
   37.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2108-10-19**]  04:16 AM
                             [**2108-10-19**]  04:34 AM
                             [**2108-10-19**]  05:59 AM
                             [**2108-10-19**]  05:05 PM
                             [**2108-10-19**]  05:19 PM
                             [**2108-10-20**]  05:03 AM
                             [**2108-10-20**]  06:30 AM
                             [**2108-10-20**]  11:28 AM
                             [**2108-10-21**]  03:42 AM
                             [**2108-10-21**]  03:49 AM
   WBC
   10.5
   8.7
   10.3
   Hct
   36.0
   36.3
   35.0
   37.9
   Plt
   113
   122
   138
   Cr
   1.4
   1.3
   1.3
   TCO2
   31
   32
   33
   30
   31
   28
   31
   Glucose
   105
   136
   139
   Other labs: PT / PTT / INR:16.0/24.9/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:57/63, Alk Phos / T Bili:41/0.6,
   Amylase / Lipase:/24, Differential-Neuts:82.5 %, Lymph:8.8 %, Mono:5.3
   %, Eos:3.0 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:708 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT [**Numeric Identifier 509**]/[**Doctor Last Name 11**])
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 AORTIC ANEURYSM, ABDOMINAL WITHOUT RUPTURE (AAA)
 SHOCK, SEPTIC
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
   # Blood pressure control: Patient was hypotensive to SBP 80s at OSH, at
   transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive to
   70s/50s post-emergent intubation, and required intermitent levophed for
   first several days at [**Hospital1 19**].  Unclear etiology, although concerning for
   unstable AAA, possible recent dynamic changes.  Potential etiologies
   include cardiogenic shock or distributive shock from sepsis/SIRS
   physiology or medications.  In addition, volume rescucitation in
   setting of suspected ruptured AAA with 5 units PRBCs and 3L IVF likely
   has caused volume overload leading to decreased cardiac output and
   pulmonary edema from decompensated heart failure.  SIRS/sepsis could be
   in the setting of aspiration event during emergent intubation or
   TRALI.  Hypotension now resolved, but need tight bp control given risk
   for AAA rupture.  - Initially aggressive diuresis with lasix 20 mg /
   hr.  Total LOS neg 5L
   - Goal today <1L UOP 25-50 cc/hr
   - Patient has tendency to become agitated and hypertensive when
   repositioning - will use labetolol or nitro drip for goal MAP 70s
   .
   # Mixed respiratory failure: Patient initially had possible hypoxic and
   hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis.
   - currently FiO2 40%, PEEP 5
   - will attempt to wean down sedation today; may require nitro drip to
   control BP
   - Treating for aspiration pneumonia versus chemical pneumonitis with
   vanco and cefepime (both renally dosed) and flagyl. Likely 7 day
   course, today day [**7-1**]
   - Will order mini BAL today
   - f/u pending sputum cultures -> commensal organisms only
   - f/u blood cultures -> [**Last Name (LF) 10314**], [**First Name3 (LF) **] culture daily if continues to spike
   .
   # Fever/Leukocytosis: Concerning for infectious process, although
   worsening leukocytosis could also be caused by chemical pneumonitis or
   ACS.  Leukocytosis is stable, temp cont, will f/u blood, urine cx. [**Month (only) 51**]
   also consider drug rxn given stable WBC
   - Trend fever curve, WBC
   - Antimicrobial therapy as above.
   - Will d/c A-line, Central Line today for removal of possible fever
   source
   - Pt also w/ vesicle on hand, urticarial rash on back, concerning for
   possible drug rxn.
   - Will send VZV cx for hand vesicle
   .
   #Hypernatremia: Pt w/ Na of 149 today
   -          likely from overdiuresis
   -          Will order urine lytes to workup etiology
   .
   # Coronaries: Patient with significant TnT elevation to 2.68 with MB of
   208 (CK 1099). ECG demonstrating dynamic changes, concerning initially
   for left main or proximal LAD ischemia given STE in aVR and V1.  Most
   recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Left heart cath results as above.  Possible
   revascularization in future if patient improves clinically.
   - ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - cardiac biomarkers -> peak CK 2350, now trending down, will stop
   cycle
   - pt becomes hypertensive with agitation, and in setting of known AS,
   LV appears to be able to handle increased wall tension, an encouraging
   sign
   - Now on labetalol drip, titrate to MAP in 70s.  Will consider using
   nitro drip if needed.
   .
   # AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.   CT abdomen showed no changes in AAA, no RP
   bleed, no obvious source of blood loss.  Given 2 units blood with
   appropriate rise and Hct now stable.
   - Follow-up with vascular surgery regarding timing of intervention.
   Previous plan had been for surgery Monday, but now they may defer to
   avoid placing aortic graft when Pt is febrile
   - Trend hct, maintain active T+S, crossmatch
   - maintain good BP control
   .
   # Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.
   - TTE showed EF 35%, infero akinesis, moderate aortic valve stenosis
   (valve area 1.0-1.2cm2).
   - continue diuresis as above
   - Check ScVO2, CVP.
   - right heart cath showed increased filling pressures and PCWP 25
   .
   # Rhythmn: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter.
   - Cont Telemetry
   - failed DC cardioversion
   - start amio in interim, 150 mg bolus, 1 mg/min for 6 hours, 0.6 mg/min
   for 18 hours -> pt cont in a.flutter/a.fib, in NSR at times
   - will cont amio PO
 patient as been in sinus for 24 hours
   .
   # Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam
   -  will monitor, hold heparin for now
   -  plts stable at 138
   - heme/onc consulted, recs appreciated
   .
   # Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Resolving.  Toxicology screen negative.
   - Trend LFTs -> cont to be elevated, stable
   - Obtain baseline labs from PCP
   .
   # Acute renal failure: Unclear etiology witih unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.
   - Trend creatinine, electrolytes -> creatinine stable 1.4 on admission,
   now 1.3, also encouraging
   - Repeat UA, urine electrolytes, and urine eos, and repeat urine
   culture
   - Obtain baseline labs from PCP.
   [**Name Initial (NameIs) **] NAC and NaHCO3 for CIN prophylaxis.
   .
   FEN: oral feedings through OG tube
   ACCESS: PIV
   PPx: Heparin SQ, famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2108-10-20**] 02:38 PM 53 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   Multi Lumen - [**2108-10-16**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-10-22 15:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 No events overnight.  Pt attempting to talk while intubated this
   morning, alert and interacting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-20**] 04:00 PM
   Metronidazole - [**2108-10-21**] 04:00 AM
   Vancomycin - [**2108-10-22**] 11:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-22**] 02:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.7
C (98.1
   HR: 61 (58 - 72) bpm
   BP: 113/62(78) {113/59(78) - 115/62(79)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.3 kg (admission): 91 kg
   Height: 67 Inch
             Total In:
                                                                  2,178 mL
                                                                  1,276 mL
   PO:
             400 mL
   TF:
                                                                    928 mL
                                                                    130 mL
   IVF:
                                                                    590 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                  1,980 mL
   Urine:
                                                                  2,705 mL
                                                                  1,880 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -527 mL
                                                                   -704 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (446 - 656) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: 7.50/35/81.[**Numeric Identifier 508**]/25/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Gen: Interacting, Intubated
   HEENT: Intubated.
   Resp: Lungs clear anteriorly
   Cards: S1: Normal), (S2: Normal), (Murmur: Systolic), harsh, grade III
   systolic murmur at RUSB, grade III systolic murmer at LSB and apex
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, feet improved and no longer mottled. R hand with vesicle
   on dorsal surface
   Neurologic: Alert, interactive on vent, moving all extremities.
   Labs / Radiology
   146 K/uL
   10.9 g/dL
   122 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   39 mg/dL
   114 mEq/L
   146 mEq/L
   33.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2108-10-19**]  05:19 PM
                             [**2108-10-20**]  05:03 AM
                             [**2108-10-20**]  06:30 AM
                             [**2108-10-20**]  11:28 AM
                             [**2108-10-21**]  03:42 AM
                             [**2108-10-21**]  03:49 AM
                             [**2108-10-21**]  01:17 PM
                             [**2108-10-21**]  03:54 PM
                             [**2108-10-22**]  05:07 AM
                             [**2108-10-22**]  05:33 AM
   WBC
   8.7
   10.3
   10.0
   Hct
   35.0
   37.9
   33.8
   Plt
   122
   138
   146
   Cr
   1.3
   1.3
   1.1
   TCO2
   33
   30
   31
   28
   31
   29
   26
   28
   Glucose
   136
   139
   122
   Other labs: PT / PTT / INR:15.7/25.5/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:57/63, Alk Phos / T Bili:41/0.6,
   Amylase / Lipase:/24, Differential-Neuts:82.5 %, Lymph:8.8 %, Mono:5.3
   %, Eos:3.0 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:708 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: [**2108-10-22**]
   05:33a
   -----------------------------------------------------------------------
   ---------
   pH
   7.50 pCO2
   35 pO2
   82 HCO3
   28 BaseXS
   3
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:40; Rate:/15; TV:610;
   PEEP:5
   Imaging: CXR [**10-21**]:  Indwelling devices remain in standard position, and
   cardiomediastinal contours are unchanged. Persistent opacities at the
   bases probably represent a combination of pleural effusion and adjacent
   atelectasis,
   but infectious process is also possible in the appropriate clinical
   setting.
   Microbiology: [**10-22**] Skin scrapings pending
   [**10-22**] Direct Antigen Test for VZV pending
   [**10-22**] DFA HSV [**1-27**] pending
   [**10-21**] Catheter tip
 no growth to date
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
  Blood pressure control: Patient was hypotensive to SBP 80s at OSH,
   at transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive
   to 70s/50s post-emergent intubation, and required intermitent levophed
   for first several days at [**Hospital1 19**].  Unclear etiology, although concerning
   for unstable AAA, possible recent dynamic changes.  Potential
   etiologies include cardiogenic shock or distributive shock from
   sepsis/SIRS physiology or medications.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI.  Hypotension now resolved and patient
   hypertensive, in need of tight BP control given risk for AAA rupture.
   Patient has tendency to become agitated and hypertensive when
   repositioning
 currently on labetolol drip with goal MAP 70s but ok to
   be slightly lower, ready to transition to PO labetelol.  Initially
   underwent aggressive diuresis initially with lasix 20 mg / hr with
   total LOS neg 5L.  Respiratory status stable, ready for extubation
   today.
   - Lasix 40mg IV x1 this morning
   - Goal today even I/O, redose Lasix this evening as needed
   - Initiate Labetelol po today at 100mg [**Hospital1 **]
   - Discontinue Labetelol drip 1-2 hours following initiation of po
   Labetelol
   - f/u Vascular surgery recs re: CABG and AAA repair in setting of
   fevers
   .
  Mixed respiratory failure: Patient initially had possible hypoxic
   and hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentaynl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis, ready for extubation
   today.  On Vanc for ?aspiration PNA, BAL showing no growth, all other
   cultures [**Last Name (Titles) 10314**].
   - Extubation today
   - Tight BP control with po Labetelol as above
   - Treating for aspiration pneumonia versus chemical pneumonitis with
   Vanc. Likely 7 day course, today day [**7-1**]
   - f/u blood cultures -> [**Last Name (LF) 10314**], [**First Name3 (LF) **] culture daily if continues to spike
   .
  Fever/Leukocytosis: Concerning for infectious process, although
   worsening leukocytosis could also be caused by chemical pneumonitis.
   Leukocytosis is stable, temp cont, will f/u blood, urine cx. [**Month (only) 51**] also
   consider drug rxn given stable WBC.  A line pulled and re-placed,
   central line removed.  On Vanc for ?aspiration PNA.
   - Trend fever curve, WBC
   - Vanc trough today for dosing
   - Continue Vanc [**Hospital1 **] as above
   - Pt also w/ vesicle on hand, urticarial rash on back, concerning for
   possible drug rxn.
   - Will send VZV, HSV [**1-27**] cx for hand vesicle
   .
  Hypernatremia:  Resolving, Na 146 today, likely [**2-27**] over-diuresis.
   .
  Coronaries: Patient with significant TnT elevation to 2.68 with MB
   of 208 (CK 1099). ECG demonstrating dynamic changes, concerning
   initially for left main or proximal LAD ischemia given STE in aVR and
   V1.  Most recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Peak CK 2350.  Left heart cath results as above.
   Possible revascularization in future if patient improves clinically.
   - Continue ASA 325, atorvastatin 80 mg
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - Now on Labetelol drip, transition to po Labetalol and d/c drip, goal
   MAP in 70s but ok if slightly below.
   .
 AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.   CT abdomen showed no changes in AAA, no RP
   bleed, no obvious source of blood loss.  Given 2 units blood with
   appropriate rise and Hct now stable.
   - Follow-up with vascular surgery regarding timing of intervention.
   Previous plan had been for surgery Monday, but now they may defer to
   avoid placing aortic graft when pt is febrile
   - Trend Hct, maintain active T+S, crossmatch
   - maintain good BP control
   .
  Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.   TTE showed EF 35%,
   infero akinesis, moderate aortic valve stenosis (valve area
   1.0-1.2cm2).  Right heart cath showed increased filling pressures and
   PCWP 25
   - Continue diuresis as above
   .
  Rhythmn: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter, failed DC cardioversion.
   - Cont Telemetry
   - Re-initiate Amiodarone 400mg daily
   .
  Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam.   Plts 122 on lab draw but 146 on arterial
   line draw.  Will monitor.  Heme/onc consulted.
   -  Hold heparin for now
   - Monitor platelets daily
   .
  Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.  Resolving.
   .
  Acute renal failure: Unclear etiology with unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.  Now resolved with Cr
   1.1 today.
   - Trend creatinine, electrolytes
   - Repeat UA, urine electrolytes, and urine eos, and repeat urine
   culture
   - Completing NAC and NaHCO3 for CIN prophylaxis.
   .
   FEN: Thin liquids, advance to soft solids as tolerated per speech and
   swallow recs.  Replete lytes prn.
    ACCESS: PIV
   PPx: famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2108-10-20**] 02:38 PM 53 mL/hour
 Transition
   to full liquids after extubation, advance to soft solids as tolerated
   Glycemic Control:
   Lines:
   Arterial Line - [**2108-10-16**] 05:00 AM
   PIV
   Prophylaxis:
   DVT:  Famotidine
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (confirmed with HCP)
   Disposition:  ICU care
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to aortic abdominal aneurysm, acute on chronic
   systolic and diastolic CHF, blood loss anemia, sepsis.
   Date/time of visit 9/28/9 at 1030.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-22**] 16:50 ------

2108-10-23 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Constipation
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2108-10-22**] 08:07 AM
   Labetalol drip discontinued and patient transitioned to PO labetalol.
   Patient endorses constipation; no abdominal pain, continues to pass
   gas. Thinks last BM was 8 days ago. Eating/swallowing without
   difficulty.
   Denies CP. Feels less shortness of breath.
   Per nursing, had a few visual hallucinations (ie: seeing a newspaper or
   phone at the end of the bed or across the room). Easily
   reorients/redirects.
   Endorses ringing in the left ear and numbness of the right fingers,
   both problems he says are longstanding for him.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2108-10-20**] 04:00 PM
   Metronidazole - [**2108-10-21**] 04:00 AM
   Vancomycin - [**2108-10-22**] 11:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-23**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 62 (57 - 70) bpm
   BP: 113/62(78) {0/0(0) - 0/0(0)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.3 kg (admission): 91 kg
   Height: 67 Inch
                  Total In:
                                                                  1,816 mL
                  PO:
                                                                    940 mL
                  TF:
                                                                    130 mL
   IVF:
                                                                    566 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    130 mL
   Urine:
                                                                  2,365 mL
                                                                    130 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -649 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   GEN: Cooperative, conversational. Lying in bed. Talkative.
   NECK: No carotid bruits appreciated.
   CV: RRR, systolic ejection murmur blurring into second heart sound,
   heard loudest at LUSB and radiating throughout cardiac region.
   PULM: CTAB
   ABD: Soft, NT, mild distention, obese, +BS
   EXTR: Trace pedal edema, 2+left DP pulse, 1+right DP pulse.
   NEURO: Alert, oriented.
   Labs / Radiology
   151 K/uL
   10.8 g/dL
   100 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.8 mEq/L
   32 mg/dL
   108 mEq/L
   143 mEq/L
   32.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2108-10-20**]  05:03 AM
                             [**2108-10-20**]  06:30 AM
                             [**2108-10-20**]  11:28 AM
                             [**2108-10-21**]  03:42 AM
                             [**2108-10-21**]  03:49 AM
                             [**2108-10-21**]  01:17 PM
                             [**2108-10-21**]  03:54 PM
                             [**2108-10-22**]  05:07 AM
                             [**2108-10-22**]  05:33 AM
                             [**2108-10-23**]  02:02 AM
   WBC
   8.7
   10.3
   10.0
   10.9
   Hct
   35.0
   37.9
   33.8
   32.3
   Plt
   122
   138
   146
   151
   Cr
   1.3
   1.3
   1.1
   0.9
   TCO2
   30
   31
   28
   31
   29
   26
   28
   Glucose
   136
   139
   122
   100
   Other labs: PT / PTT / INR:15.7/25.5/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:57/63, Alk Phos / T Bili:41/0.6,
   Amylase / Lipase:/24, Differential-Neuts:82.5 %, Lymph:8.8 %, Mono:5.3
   %, Eos:3.0 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:708 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL.
   Micro: VSV/HSV pending; wound culture
 no significant growth on
   catheter tip.
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
  Blood pressure control: Patient was hypotensive to SBP 80s at OSH,
   at transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive
   to 70s/50s post-emergent intubation, and required intermittent levophed
   for first several days at [**Hospital1 19**].  Unclear etiology, although concerning
   for unstable AAA, possible recent dynamic changes.  Potential
   etiologies include cardiogenic shock or distributive shock from
   sepsis/SIRS physiology or medications.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI. Hypotension now resolved and patient hypertensive,
   in need of tight BP control given risk for AAA rupture.  Patient has
   tendency to become agitated and hypertensive when repositioning
 was
   on labetolol drip previously, but now on labetalol PO. Goal: SBP<120,
   MAP 70s but ok to be slightly lower. Initially underwent aggressive
   diuresis with lasix 20 mg / hr with total LOS neg 5L. Was extubated
   yesterday, respiratory status stable. Yesterday
s goal was even I/O;
   was net approximately 700 negative.
   - Goal today negative 1L , redose Lasix this evening as needed
   - Increase labetalol to 200mg po tid
   - Goal SBP <120, even use Nitro PRN if needed to meet this goal
   - f/u Vascular surgery recs re: CABG and AAA repair
   .
  Mixed respiratory failure: Patient initially had possible hypoxic
   and hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentanyl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis; extubated successfully
   yesterday.  On Vanc for ?aspiration PNA, BAL showing no growth.
   - Tight BP control with po labetelol as above
   - Treating for aspiration pneumonia versus chemical pneumonitis with
   Vanc. Likely 7 day course, today day [**7-31**]
   - f/u blood cultures -> NGTD except for [**10-20**]: coag negative staph
   - will culture daily if continues to spike
   .
  Fever/Leukocytosis: Concerning for infectious process, although
   worsening leukocytosis could also be caused by chemical pneumonitis.
   Leukocytosis is stable/slightly up, afebrile 24 hours now, will f/u
   blood, urine cx. [**Month (only) 51**] also consider drug rxn given stable WBC.  A-line
   pulled and re-placed, central line removed.  On Vanc for ?aspiration
   PNA.
   - Trend fever curve, WBC
   - Vanc trough yesterday signified no change to vancomycin dosing;
   continue Vanc [**Hospital1 **] as above (today day [**7-31**])
   - Pt also w/ vesicle on hand, urticarial rash on back, concerning for
   possible drug rxn.
   - Follow-up VZV, HSV [**1-27**] cx from hand vesicle
   .
  Hypernatremia:  Resolving, Na 143 today, likely [**2-27**] over-diuresis.
   .
  Coronaries: Patient with significant TnT elevation to 2.68 with MB
   of 208 (CK 1099). ECG demonstrating dynamic changes, concerning
   initially for left main or proximal LAD ischemia given STE in aVR and
   V1.  Most recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Peak CK 2350.  Left heart cath results as above.
   Possible revascularization in future if patient improves clinically.
   - Continue ASA 325
   - Decrease atorvastatin to 40 mg (as patient on amiodarone, want to
   decrease risk of rhabdomyolysis)
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - Now on po Labetalol; goal MAP in 70s but ok if slightly below; goal
   SBP <120.
   .
 AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.  CT abdomen showed no changes in AAA, no RP bleed,
   no obvious source of blood loss.  Given 2 units blood with appropriate
   rise and Hct is now stable.
   - Follow-up with vascular surgery regarding timing of
   intervention/surgery
   - Trend Hct, maintain active T+S, crossmatch
   - Maintain good BP control
   .
  Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.   TTE showed EF 35%,
   infero akinesis, moderate aortic valve stenosis (valve area
   1.0-1.2cm2).  Right heart cath showed increased filling pressures and
   PCWP 25
   - Continue diuresis as above
   .
  Rhythmn: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter, failed DC cardioversion.
   - Cont. telemetry
   - Amiodarone 400mg daily
   .
  Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam.   Plts 122 on lab draw but 146 on arterial
   line draw.  Will monitor.  Heme/onc consulted. Platelets trending up
   now.
   - Hold heparin for now
   - Monitor platelets daily (151 today)
   .
  Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.  Continues to resolve.
   .
  Acute renal failure: Unclear etiology with unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.  Now resolved with Cr
   0.9 today.
   - Trend creatinine, electrolytes
   .
   FEN: Thin liquids, soft solids.  Replete lytes prn.
   ACCESS:
   Arterial Line - [**2108-10-21**] 03:40 PM; can be pulled this afternoon.
   20 Gauge - [**2108-10-22**] 11:30 AM
   PPx: famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   Prophylaxis:
   DVT: pneumoboots (d/t platelet drop and AAA, no heparin SQ)
   Stress ulcer:
   VAP: Extubated.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name9 (PRE) 106**] Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-25**] 08:10 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to acute on chronic systolic and diastoilc CHF,
   aortic aneurysm, renal failure, severe coronary artery disease, Non-ST
   elevation MI.
   Date/time was 9/29/9 at 1400.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-25**] 14:00 ------

2108-10-24 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension and respiratory failure
   24 Hour Events:
   -Seen by vascular, plan [**First Name9 (NamePattern2) 10406**] [**Doctor First Name **]
   -Agitated this AM, pulling at lines
   -Lopressor increased, but BP in 100
s so PM dose held yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-24**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 71 (57 - 73) bpm
   BP: 122/64(86) {101/61(76) - 122/73(89)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 91 kg
   Height: 67 Inch
                  Total In:
                                                                  1,060 mL
                                                                    300 mL
   PO:
                                                                    860 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    295 mL
   Urine:
                                                                  2,245 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,185 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GEN: Agitated but re-orientable, interactive. Lying in bed.
   CV: RRR, GIII harsh systolic ejection murmur blurring into second heart
   sound, heard loudest at LUSB and radiating throughout cardiac region.
   PULM: Minimal crackles at bases, otherwise clear.
   ABD: Soft, NT/ND, obese, +BS
   EXTR: No pedal edema, thready but equal and palpable PT pulses b/l
   NEURO: Alert, oriented, hallucinating, re-directable
   Labs / Radiology
   193 K/uL
   10.3 g/dL
   144 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   31 mg/dL
   107 mEq/L
   141 mEq/L
   31.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2108-10-20**]  06:30 AM
                             [**2108-10-20**]  11:28 AM
                             [**2108-10-21**]  03:42 AM
                             [**2108-10-21**]  03:49 AM
                             [**2108-10-21**]  01:17 PM
                             [**2108-10-21**]  03:54 PM
                             [**2108-10-22**]  05:07 AM
                             [**2108-10-22**]  05:33 AM
                             [**2108-10-23**]  02:02 AM
                             [**2108-10-24**]  02:23 AM
   WBC
   10.3
   10.0
   10.9
   8.9
   Hct
   37.9
   33.8
   32.3
   31.9
   Plt
   138
   146
   151
   193
   Cr
   1.3
   1.1
   0.9
   1.1
   TCO2
   31
   28
   31
   29
   26
   28
   Glucose
   139
   122
   100
   144
   Other labs: PT / PTT / INR:16.0/26.2/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:57/63, Alk Phos / T Bili:41/0.6,
   Amylase / Lipase:/24, Differential-Neuts:82.5 %, Lymph:8.8 %, Mono:5.3
   %, Eos:3.0 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:708 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**10-21**] Mini BAL:  2+ PMN, no microorganisms on gram stain.
   No growth on cx.
   [**10-22**]  Catheter tip:  No growth.
   [**10-22**]  VZV Direct Antigen:  Not processed
   [**10-22**]  HSV DFA:  Not processed
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
  Blood pressure control: Patient was hypotensive to SBP 80s at OSH,
   at transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive
   to 70s/50s post-emergent intubation, and required intermittent levophed
   for first several days at [**Hospital1 19**].  Unclear etiology, although concerning
   for unstable AAA, possible recent dynamic changes.  Potential
   etiologies include cardiogenic shock or distributive shock from
   sepsis/SIRS physiology or medications.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI. Hypotension now resolved and patient hypertensive,
   in need of tight BP control given risk for AAA rupture.  Patient has
   tendency to become agitated and hypertensive when repositioning
 was
   on labetolol drip previously, but now on labetalol PO. Goal: SBP<120,
   MAP 70s but ok to be slightly lower. Initially underwent aggressive
   diuresis with lasix 20 mg / hr with total LOS neg 5L. Was extubated
   yesterday, respiratory status stable. Yesterday
s goal was -1L I/O; was
   net 1L negative.
   - Goal today negative 0.5-1L , redose Lasix this evening as needed
   - Decrease labetalol to 200 [**Hospital1 7**] given hypotensive episode yesterday.
   - Goal SBP <120, even use Nitro PRN if needed to meet this goal
   - f/u Vascular surgery recs re: CABG and AAA repair
   .
  Mixed respiratory failure: Patient initially had possible hypoxic
   and hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentanyl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis; extubated successfully
   [**10-22**].  On Vanc for ?aspiration PNA and bacteremia, BAL showing no
   growth but positive cultures 9/26 and [**10-21**].
   - Tight BP control with po labetelol as above
   - Treating for aspiration pneumonia versus chemical pneumonitis with
   Vanc 14 day course given bacteremia, today day [**9-7**]
   - f/u blood cultures -> [**10-20**] and [**10-21**]: coag negative staph
   - Will culture daily until negative, on a 14 day course for Staph
   bacteremia
   .
  Fever/Leukocytosis: Concerning for infectious process leukocytosis
   improved, afebrile 48 hours now, will f/u blood, urine cx. [**Month (only) 51**] also
   consider drug rxn given stable WBC.  A-line pulled and re-placed,
   central line removed.  On Vanc for ?aspiration PNA, bacteremia,
   therefore pt will require 14 day course from first negative cx. Pt also
   w/ vesicle on hand, urticarial rash on back, concerning for possible
   drug rxn.
   - Trend fever curve, WBC
   - Culture daily until negative as above
   - Vanc trough yesterday not drawn at appropriate time; continue Vanc
   [**Hospital1 **] as above (today day 7), re-check vanc trough today
   - Follow-up VZV, HSV [**1-27**] cx from hand vesicle, culture pending, DFA
   slides misplaced
   .
  Hypernatremia:  Resolved, Na 143 today, likely [**2-27**] over-diuresis.
   .
  Coronaries: Patient with significant TnT elevation to 2.68 with MB
   of 208 (CK 1099). ECG demonstrating dynamic changes, concerning
   initially for left main or proximal LAD ischemia given STE in aVR and
   V1.  Most recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Peak CK 2350.  Left heart cath results as above.
   Possible CABG in future if patient improves clinically.
   - Decrease Aspirin to 81 qday
   - Continue Atorvastatin 40 mg (as patient on amiodarone, want to
   decrease risk of rhabdomyolysis)
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - Labetalol 200mg [**Hospital1 **] as above; goal MAP in 70s but ok if slightly
   below; goal SBP <120.
   .
 AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.  CT abdomen showed no changes in AAA, no RP bleed,
   no obvious source of blood loss.  Given 2 units blood with appropriate
   rise and Hct is now stable.
   - [**Month/Year (2) 10406**] tomorrow, per vascular surgery
   - Trend Hct, maintain active T+S, crossmatch
   - Maintain good BP control
   .
  Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.   TTE showed EF 35%,
   inferior akinesis, moderate aortic valve stenosis (valve area
   1.0-1.2cm2).  Right heart cath showed increased filling pressures and
   PCWP 25
   - Continue diuresis as above
   .
  Rhythm: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter, failed DC cardioversion, NSR this
   AM.
   - Cont. telemetry
   - Decrease Amiodarone 400mg to once daily (based on day of initiation
   of Amio loading)
   .
  Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam.   Plts 122 on lab draw but 146 on arterial
   line draw.  Will monitor.  Heme/onc consulted, do not believe HIT.
   Platelets trending up now.
   - Restart Heparin SC as low suspicion for HIT
   - Monitor platelets daily
   .
  Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.  Continues to resolve on
   last check, recheck tomorrow.
   - Recheck LFTs tomorrow to trend resolution of transaminitis
   .
  Acute renal failure: Unclear etiology with unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.  Now resolved with Cr
   1.1 today.
   - Trend creatinine, electrolytes
   .
   FEN: Thin liquids, soft solids.  Replete lytes prn.
   ACCESS:
   Arterial Line - [**2108-10-21**] 03:40 PM; can be pulled this afternoon.
   20 Gauge - [**2108-10-22**] 11:30 AM
   PPx: famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   Prophylaxis:
   DVT: pneumoboots (d/t platelet drop and AAA, no heparin SQ)
   Stress ulcer:
   VAP: Extubated.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  not diabetic, sugars well controlled
   Lines:
   Arterial Line - [**2108-10-21**] 03:40 PM
   22 Gauge - [**2108-10-23**] 10:00 AM
   20 Gauge - [**2108-10-23**] 09:08 PM
   Prophylaxis:
   DVT: will start sub-cu heparin
   Stress ulcer: continue [**Last Name (LF) 10401**], [**First Name3 (LF) **] switch to daily dosing
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to acute on chronic systolic and diastolic CHF,
   severe aortic stenosis, abdominal aortic aneurysm, sepsis.
   Date/time of visit 9/30/9 at 1130.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2108-10-25**] 18:16 ------

2108-10-25 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH
   significant for HTN and hyperlipidemia transferred to [**Hospital1 19**] from an OSH
   with newly diagnosed infrarenal AAA, hypotension and respiratory
   failure requiring intubation and pressors.  Also had +CE, ECG changes
   and cath showing 3VD.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2108-10-24**] 10:43 AM
   Agitated, received 1mg Haldol IV with sedation.
   Decreased Labetelol to 200mg [**Hospital1 **] for hypotension yesterday.
   EVR today by vascular surgery, NPO at midnight.
   Continuing 14 day course Vanc, daily BCx until negative to determine
   end date for Vanc.  Trough this AM 16.
   Amiodarone decreased to daily, as fully loaded.
   Re-started Heparin SC ppx - will trend platelets.
   ASA decreased to 81mg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-24**] 09:55 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2108-10-24**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2108-10-24**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 71 (61 - 89) bpm
   BP: 110/77(81) {86/42(52) - 123/78(87)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 91 kg
   Height: 67 Inch
                  Total In:
                                                                    860 mL
                  PO:
                                                                    660 mL
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    260 mL
   Urine:
                                                                  1,200 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GEN: Agitated but re-orientable, interactive. Lying in bed.
   CV: RRR, GIII harsh systolic ejection murmur blurring into second heart
   sound, heard loudest at LUSB and radiating throughout cardiac region.
   PULM: Minimal crackles at bases, otherwise clear.
   ABD: Soft, NT/ND, obese, +BS
   EXTR: No pedal edema, thready but equal and palpable PT pulses b/l
   NEURO: Alert, oriented, hallucinating, re-directable
   Labs / Radiology
   247 K/uL
   11.1 g/dL
   100 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   24 mg/dL
   109 mEq/L
   143 mEq/L
   33.2 %
   7.4 K/uL
                             [**2108-10-20**]  11:28 AM
                             [**2108-10-21**]  03:42 AM
                             [**2108-10-21**]  03:49 AM
                             [**2108-10-21**]  01:17 PM
                             [**2108-10-21**]  03:54 PM
                             [**2108-10-22**]  05:07 AM
                             [**2108-10-22**]  05:33 AM
                             [**2108-10-23**]  02:02 AM
                             [**2108-10-24**]  02:23 AM
                             [**2108-10-25**]  05:15 AM
   WBC
   10.3
   10.0
   10.9
   8.9
   7.4
   Hct
   37.9
   33.8
   32.3
   31.9
   33.2
   Plt
   138
   146
   151
   193
   247
   Cr
   1.3
   1.1
   0.9
   1.1
   1.1
   TCO2
   28
   31
   29
   26
   28
   Glucose
   139
   122
   100
   144
   100
   Other labs: PT / PTT / INR:15.6/27.2/1.4, CK / CKMB /
   Troponin-T:1624/107/9.06, ALT / AST:62/52, Alk Phos / T Bili:55/0.9,
   Amylase / Lipase:/24, Differential-Neuts:82.5 %, Lymph:8.8 %, Mono:5.3
   %, Eos:3.0 %, D-dimer:[**Numeric Identifier 10099**] ng/mL, Fibrinogen:768 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.9 g/dL, LDH:495 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 10173**] is a 69 year old gentleman with a PMH significant for HTN
   and hyperlipidemia transferred to [**Hospital1 19**] from an OSH with newly
   diagnosed infrarenal AAA, hypotension and respiratory failure requiring
   intubation and pressors.  Also had +CE, ECG changes and cath showing
   3VD.
   .
  Blood pressure control: Patient was hypotensive to SBP 80s at OSH,
   at transfer, and in the [**Hospital1 19**] ED.  He became increasingly hypotensive
   to 70s/50s post-emergent intubation, and required intermittent levophed
   for first several days at [**Hospital1 19**].  Unclear etiology, although concerning
   for unstable AAA, possible recent dynamic changes.  Potential
   etiologies include cardiogenic shock or distributive shock from
   sepsis/SIRS physiology or medications.  In addition, volume
   rescucitation in setting of suspected ruptured AAA with 5 units PRBCs
   and 3L IVF likely has caused volume overload leading to decreased
   cardiac output and pulmonary edema from decompensated heart failure.
   SIRS/sepsis could be in the setting of aspiration event during emergent
   intubation or TRALI. Hypotension now resolved and patient hypertensive,
   in need of tight BP control given risk for AAA rupture.  Patient has
   tendency to become agitated and hypertensive when repositioning
 was
   on labetolol drip previously, but now on labetalol PO. Goal: SBP<120,
   MAP 70s but ok to be slightly lower. Initially underwent aggressive
   diuresis with lasix 20 mg / hr with total LOS neg 5L. Was extubated
   yesterday, respiratory status stable. Yesterday
s goal was -1L I/O; was
   net 1L negative.
   - Goal today negative 0.5-1L , redose Lasix this evening as needed
   - Decrease labetalol to 200 [**Hospital1 7**] given hypotensive episode yesterday.
   - Goal SBP <120, even use Nitro PRN if needed to meet this goal
   - f/u Vascular surgery recs re: CABG and AAA repair
   .
  Mixed respiratory failure: Patient initially had possible hypoxic
   and hypercarbic respiratory failure. Hypoxia may have been secondary to
   excessive volume overload in setting of volume rescuscitation and
   worsened MR [**First Name (Titles) **] [**Last Name (Titles) 509**] from transfusion (i.e. TRALI) or aspiration event.
   Patient was difficult to ventilate in ED requiring vecuronium, and
   remained difficult to ventilate with significant auto-PEEP and
   breathstacking when not paralyzed.  Hypercarbia likely caused by
   fentanyl for back pain, although unclear if patient has history of
   obstructive lung disease.  Pt oxygenation and ventilation has improved
   markedly in setting of aggressive diuresis; extubated successfully
   [**10-22**].  On Vanc for ?aspiration PNA and bacteremia, BAL showing no
   growth but positive cultures 9/26 and [**10-21**].
   - Tight BP control with po labetelol as above
   - Treating for aspiration pneumonia versus chemical pneumonitis with
   Vanc 14 day course given bacteremia, today day [**9-7**]
   - f/u blood cultures -> [**10-20**] and [**10-21**]: coag negative staph
   - Will culture daily until negative, on a 14 day course for Staph
   bacteremia
   .
  Fever/Leukocytosis: Concerning for infectious process leukocytosis
   improved, afebrile 48 hours now, will f/u blood, urine cx. [**Month (only) 51**] also
   consider drug rxn given stable WBC.  A-line pulled and re-placed,
   central line removed.  On Vanc for ?aspiration PNA, bacteremia,
   therefore pt will require 14 day course from first negative cx. Pt also
   w/ vesicle on hand, urticarial rash on back, concerning for possible
   drug rxn.
   - Trend fever curve, WBC
   - Culture daily until negative as above
   - Vanc trough yesterday not drawn at appropriate time; continue Vanc
   [**Hospital1 **] as above (today day 7), re-check vanc trough today
   - Follow-up VZV, HSV [**1-27**] cx from hand vesicle, culture pending, DFA
   slides misplaced
   .
  Hypernatremia:  Resolved, Na 143 today, likely [**2-27**] over-diuresis.
   .
  Coronaries: Patient with significant TnT elevation to 2.68 with MB
   of 208 (CK 1099). ECG demonstrating dynamic changes, concerning
   initially for left main or proximal LAD ischemia given STE in aVR and
   V1.  Most recent ECG with largely resolved STE, but with persistent STD
   anterolaterally with new LAD from leftward axis on intial
   presentation.  Peak CK 2350.  Left heart cath results as above.
   Possible CABG in future if patient improves clinically.
   - Decrease Aspirin to 81 qday
   - Continue Atorvastatin 40 mg (as patient on amiodarone, want to
   decrease risk of rhabdomyolysis)
   - Hold on plavix, heparin gtt, ACE-I, given hypotension and concern for
   ruptured AAA.
   - Labetalol 200mg [**Hospital1 **] as above; goal MAP in 70s but ok if slightly
   below; goal SBP <120.
   .
 AAA: Currently does not appear to be ruptured.  Concern on [**10-18**] with
   9 point drop in Hct.  CT abdomen showed no changes in AAA, no RP bleed,
   no obvious source of blood loss.  Given 2 units blood with appropriate
   rise and Hct is now stable.
   - EVR today, per vascular surgery
   - Trend Hct, maintain active T+S, crossmatch
   - Maintain good BP control
   .
  Pump: Concerning for decompensated heart failure given hypotension
   and pulmonary edema with BNP 2769 even with ARF.   TTE showed EF 35%,
   inferior akinesis, moderate aortic valve stenosis (valve area
   1.0-1.2cm2).  Right heart cath showed increased filling pressures and
   PCWP 25
   - Continue diuresis as above
   .
  Rhythm: Currently in sinus with 1:1 conduction.  Has been
   intermittently in A fib/A flutter, failed DC cardioversion, NSR this
   AM.
   - Cont. telemetry
   - Decrease Amiodarone 400mg to once daily (based on day of initiation
   of Amio loading)
   .
  Thrombocytopenia- etiology includes heparin vs. consumptive, no
   evidence of DIC on exam.   Plts 122 on lab draw but 146 on arterial
   line draw.  Will monitor.  Heme/onc consulted, do not believe HIT.
   Platelets trending up now.
   - Restart Heparin SC as low suspicion for HIT
   - Monitor platelets daily
   .
  Transaminitis: Unclear etiology with unknown baseline, although this
   may be secondary to hypotension, acute renal failure, or
   rhabdomyolysis. Toxicology screen negative.  Continues to resolve on
   last check, recheck tomorrow.
   - Recheck LFTs tomorrow to trend resolution of transaminitis
   .
  Acute renal failure: Unclear etiology with unknown baseline. Could
   be end organ damage in setting of shock or contrast induced
   nephropathy, although less likely given timing.  Now resolved with Cr
   1.1 today.
   - Trend creatinine, electrolytes
   .
   FEN: Thin liquids, soft solids.  Replete lytes prn.
   ACCESS:
   Arterial Line - [**2108-10-21**] 03:40 PM; can be pulled this afternoon.
   20 Gauge - [**2108-10-22**] 11:30 AM
   PPx: famotidine
   Code: Full (confirmed with HCP)
   Contact: [**Name (NI) 4858**] [**Name (NI) 2747**] (niece/HCP) [**Telephone/Fax (1) 10188**] (h), [**Telephone/Fax (1) 10189**] (c)
   Dispo: ICU level of care.
   Prophylaxis:
   DVT: pneumoboots (d/t platelet drop and AAA, no heparin SQ)
   Stress ulcer:
   VAP: Extubated.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  not diabetic, sugars well controlled
   Lines:
   Arterial Line - [**2108-10-21**] 03:40 PM
   22 Gauge - [**2108-10-23**] 10:00 AM
   20 Gauge - [**2108-10-23**] 09:08 PM
   Prophylaxis:
   DVT: will start sub-cu heparin
   Stress ulcer: continue [**Last Name (LF) 10401**], [**First Name3 (LF) **] switch to daily dosing
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: